US07863271B2
To a solution of tert-butyl 4-(quinuclidine-8-yl-carbamoyl)benzoxazole-2-yl-carbamate (0.210 g, 0.54 mmol), in CH2Cl2 (5 mL) was added TFA(2 mL) and the reaction mixture was stirred at room temperature for 5 h. The reaction mixture was concentrated and the crude material was treated with aqueous NaHCO3 to adjust the pH to 7 and then extracted with CH2Cl2 (5×50 mL). The combined organic phase was concentrated and purified by preparative TLC (90:9:1 CH2Cl2/CH3OH/concentrated NH4OH) to afford (S)—N-(quinuclidine-8-yl)-2-aminobenzoxazole-4-carboxamide which was converted to the hydrochloride salt following general procedure GP-D1. 1H NMR and MS consistent.

reactant | tert-butyl 4-(quinuclidine-8-yl-carbamoyl)benzoxazole-2-yl-carbamate | 0.54 mmol, 0.210 g | N12CCC(CC1)C(C2)NC(=O)C2=CC=CC1=C2N=C(O1)NC(OC(C)(C)C)=O | C20H26N4O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)—N-(quinuclidine-8-yl)-2-aminobenzoxazole-4-carboxamide | N12CCC(CC1)[C@@H](C2)NC(=O)C=2C=CC=C1C2N=C(O1)N | C15H18N4O2
